US07626021B2
3-Chloro-2-hydroxy-5-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-benzoic acid (143 mg, 0.3 mmol), dimethylamine (2M in THF, 0.4 ml, 0.6 mmol), O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (208 mg, 0.6 mmol), and N,N-di-iso-propylethylamine (0.1 ml, 0.6 mmol) were dissolved in DMF (2 ml). The reaction mixture was stirred at room temperature overnight. The mixture was distributed between ethyl acetate and 1 N aqueous hydrochloric acid. The organic layer was washed with saturated aqueous sodium bicarbonate and brine, dried over sodium sulfate and concentrated to dryness. The crude was purified by flash chromatography on silica gel. The resulting material was dissolved in 1 ml of a 5% v/v solution of 70% perchloric acid in acetic acid and stirred overnight at room temperature. The crude was filtered and purified by mass-triggered reverse phase HPLC to afford 11 mg (63 μmol, 21%) of 3-chloro-2-hydroxy-5-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-N,N-dimethylbenzamide. 1H-NMR (DMSO-d6): δ 2.94 (s, 6H), 3.82 (s, 3H), 7.09 (m, 1H), 7.21 (d, 1H), 7.47 (m, 2H), 7.63 (d, 1H), 7.81 (s, 1H), 8.29 (s, 1H), 8.81 (s, 1H). MS: m/z 423.0 (M+H+).

reactant | 3-Chloro-2-hydroxy-5-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-benzoic acid | 0.3 mmol, 143 mg | ClC=1C(=C(C(=O)O)C=C(C1)C=1C=C2C(=NC1)N(N=C2C2=C(C=CC=C2)OC)COCC[Si](C)(C)C)O | C26H28ClN3O5Si
reactant | dimethylamine | 0.6 mmol, 2M, 0.4 ml | CNC | C2H7N
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.6 mmol, 208 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-di-iso-propylethylamine | 0.6 mmol, 0.1 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-chloro-2-hydroxy-5-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-N,N-dimethylbenzamide | 63 μmol, 11 mg, 21% | ClC=1C(=C(C(=O)N(C)C)C=C(C1)C=1C=C2C(=NC1)NN=C2C2=C(C=CC=C2)OC)O | C22H19ClN4O3
